US05712267
54(a)(ii') (2S,4R)-2-[4-(2-Hydroxylethyl) -1-piperazinylcarbonyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxy-carbonyl)pyrrolidine
584 mg of N,N'-carbonyldiimidazole were added to a solution of 1.16 g of trans-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-L-proline in 10 ml of dry acetonitrile, and the resulting mixture was stirred at 40° C. for 1 hour. 586 mg of 1-(2-Hydroxyethyl)piperazine were then added to the mixture, whilst ice-cooling, and the resulting mixture was stirred at the same temperature for 35 minutes. The solvent was then removed by distillation under reduced pressure, and the residue was purified in a similar manner so that described in step 54(a)(ii), to give 930 mg of the title compound, as a powder. The infrared absorption spectrum and nuclear magnetic resonance spectrum of the product were identical with those of the compound obtained as described in step 54(a)(ii) above.

reactant | trans-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-L-proline | 1.16 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H16N2O9S
reactant | 1-(2-Hydroxyethyl)piperazine | 586 mg | OCCN1CCNCC1 | C6H14N2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2S,4R)-2-[4-(2-Hydroxylethyl) -1-piperazinylcarbonyl]-4-methanesulfonyloxy-1-(4-nitrobenzyloxy-carbonyl)pyrrolidine | 930 mg | OCCN1CCN(CC1)C(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H28N4O9S
